Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6]\[C:7]([H:8])([H:9])[H:10]>>[C:2]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:4]=[O:3],-3.2680847073500003
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.53984949334
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C@@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.14663979187
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],2.25014469539
[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],4.2770870318
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.19155898559
[C:1]/[C:2]([O:3][H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][H:4].[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],3.19898815488
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-3.18798451754
[H:1][C:2]([H:3])=[C:4]1[C:5]([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:11]([O:10][C:5][C:6]([H:7])([H:8])[H:9])([H:12])[H:13],3.25270292533
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:8]([H:9])([H:10])=[C:11][O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-0.29520803011
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.51188950439
[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-1.4548355924399998
[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.93641461739
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.3961776318900005
[C:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.19799480472
[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10],-4.20609483946
[O:1][C:2](=[O:3])[C:4]([H:5])([H:6])[H:7]>>[C:2](=[O:3])[C:4]([H:5])([H:6])[H:7].[O:1],4.62886703943
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:5](/[H:6])[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],4.09483065543
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.83713732092
[H:8].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]#[C:7]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]#[C:7][H:8],-5.974953771900001
[H:9].[O:1][O:2]/[C:3]([H:4])=[C:5](/[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.14599729118
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3][C:4]#[C:5],3.85995230712
[C:4](\[H:5])(=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.2288340691600002
[O:1]=[C:2]=[C:5]([H:6])[C:7]([H:8])[H:9].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-5.92670562345
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2][H:3],5.307692748
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],1.73035307973
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7][H:8].[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:9]([H:10])([H:11])[H:12],6.76548590559
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-8.51309031721
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.36152964528
